US08729078B2
To a 5 mL microwave reaction vial were introduced 3-amino-1-(3-(6-tert-butyl-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-1H-pyrazole-4-carbonitrile (50 mg, 0.121 mmol), 1-(4-bromophenyl)ethanone (29 mg, 0.145 mmol), Pd2(dba)3 (7.7 mg, 0.008 mmol), 2-(DICYCLOHEXYLPHOSPHINO)-3,6-DIMETHOXY-2′-4′-6′-TRI-I-PROPYL-1,1′-BIPHENYL (Brett-Phos) (9.1 mg, 0.017 mmol), cesium carbonate (59 mg, 0.181 mmol) and suspended in t-butanol (1.5 mL). The reaction vessel was inerted three times by alternating vacuum and an Ar purge, then stirred at room temperature for 5 minutes to give a heterogeneous mixture that turned color from purplish-red to reddish-orange. The reaction was heat to 100° C. (external), during which the color of the reaction mixture changed to orange after ˜2 minutes of heating. After 1.5 hr, the reaction was judged complete by TLC. The mixture was diluted with EtOAc, filtered through a pad of diatomaceous earth and bound to silica gel. The crude product was purified over silica gel using a 12 g silica gel cartridge eluting the column with a 30%-100% EtOAc/hexanes gradient to give 3-(4-Acetyl-phenylamino)-1-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrazole-4-carbonitrile (40 mg, 62%) as a white powder.

reactant | 3-amino-1-(3-(6-tert-butyl-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-1H-pyrazole-4-carbonitrile | 0.121 mmol, 50 mg | NC1=NN(C=C1C#N)C1=C(C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O)CO | C23H22N6O2
reactant | 1-(4-bromophenyl)ethanone | 0.145 mmol, 29 mg | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | 2-(DICYCLOHEXYLPHOSPHINO)-3,6-DIMETHOXY-2′-4′-6′-TRI-I-PROPYL-1,1′-BIPHENYL | 0.017 mmol, 9.1 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | cesium carbonate | 0.181 mmol, 59 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | t-butanol | 1.5 mL | C(C)(C)(C)O | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.008 mmol, 7.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(4-Acetyl-phenylamino)-1-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrazole-4-carbonitrile | 40 mg, 62% | C(C)(=O)C1=CC=C(C=C1)NC1=NN(C=C1C#N)C1=C(C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O)CO | C31H28N6O3
